US07737149B2
Ethyl 4-fluorobenzoate (0.753 g, 4.48 mmol) was added to a solution of 1-cyclobutylpiperazine (0.571 g, 4.07 mmol) and potassium carbonate (0.563 g, 4.07 mmol) in DMSO (8 mL) under nitrogen. The resulting solution was stirred at 100° C. for 18 h and evaporated to dryness. The residue was triturated with diethyl ether, filtered, and evaporated and the crude product was purified by silica column chromatography, eluting with a gradient of 0 to 2.5% 2.5N MeOH in DCM. Pure fractions were evaporated to dryness to afford ethyl 4-(4-cyclobutylpiperazin-1-yl)benzoate (0.387 g, 32.9%) as a white solid.

reactant | Ethyl 4-fluorobenzoate | 4.48 mmol, 0.753 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | 1-cyclobutylpiperazine | 4.07 mmol, 0.571 g | C1(CCC1)N1CCNCC1 | C8H16N2
reactant | potassium carbonate | 4.07 mmol, 0.563 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | ethyl 4-(4-cyclobutylpiperazin-1-yl)benzoate | 0.387 g, 32.9% | C1(CCC1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C17H24N2O2
